US08378104B2
Step C: (6-Fluoro-1,3-benzothiazol-7-yl)boronic Acid
A mixture of 7-bromo-6-fluorobenzothiazole (90.7 mg, 0.391 mmol), bis(pinacolato)diboron (149 mg, 0.587 mmol), (1,1′bis-(diphenylphosphino)-ferrocene) palladium dichloride (15.9 mg, 0.0217 mmol), and potassium acetate (76.7 mg, 0.782 mmol) in 1,4-dioxane (1.9 mL) was heated to 85° C. for 24 h. The reaction mixture was concentrated and was then purified by ISCO chromatography (0 to 50% EtOAc:hexane) to give afford 55.3 mg of the title compound as an off-white solid. MS (ESI): 198.02 [M+H]+; HPLC tR=1.18 min (TOF: polar—3 min).

reactant | 7-bromo-6-fluorobenzothiazole | 0.391 mmol, 90.7 mg | BrC1=C(C=CC=2N=CSC21)F | C7H3BrFNS
reactant | bis(pinacolato)diboron | 0.587 mmol, 149 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.782 mmol, 76.7 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 1.9 mL | O1CCOCC1 | C4H8O2
catalyst | (1,1′bis-(diphenylphosphino)-ferrocene) palladium dichloride | 0.0217 mmol, 15.9 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (6-Fluoro-1,3-benzothiazol-7-yl)boronic Acid | 55.3 mg | FC1=C(C2=C(N=CS2)C=C1)B(O)O | C7H5BFNO2S
